US07468367B2
5-(4-Fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid [2-(6,7-difluoro-quinoxalin-2-ylamino)-ethyl]-methyl-amide
A solution of 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid (50 mg, 0.21 mmol) in DMF (3 ml) was treated sequentially with N,N-diisopropylethylamine (0.20 ml, excess), HATU (79 mg, 0.21 mmol) then after 15 min. N-(6,7-difluoro-quinoxalin-2-yl)-N′-methyl-ethane-1,2-diamine.dihydrochloride, D2 (65 mg, 0.21 mmol). The reaction mixture was stirred at room temperature, under argon for 72 h then partitioned between diethyl ether and water. The organic phase was washed with water (3×), brine, dried (MgSO4) and the solvent removed in vacuo. The residue was triturated with pentane to afford the title compound as a pale yellow powder (38 mg, 40%).

reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid | 0.21 mmol, 50 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
reactant | N,N-diisopropylethylamine | 0.20 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.21 mmol, 79 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-(6,7-difluoro-quinoxalin-2-yl)-N′-methyl-ethane-1,2-diamine.dihydrochloride | Cl.Cl.FC=1C=C2N=CC(=NC2=CC1F)NCCNC
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-(4-Fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid [2-(6,7-difluoro-quinoxalin-2-ylamino)-ethyl]-methyl-amide | 38 mg, 40% | FC=1C=C2N=CC(=NC2=CC1F)NCCN(C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)C | C22H18F3N5OS
